US05041512
Laubengayer et al., Inorg. Chem., 1, pages 632 to 637 (1962), disclose the reaction of triphenylaluminum and methylamine in toluene solution to form methylamine triphenylaluminum, then methylaminodiphenylaluminum, and then methyliminophenylaluminum. Triphenylaluminum and dimethylamine form dimethylamine triphenylaluminum which is heated to form dimethylaminodiphenylaluminum.

reactant | triphenylaluminum | C1(=CC=CC=C1)[Al](C1=CC=CC=C1)C1=CC=CC=C1
reactant | methylamine | CN | CH5N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | methylamine triphenylaluminum | C1(=CC=CC=C1)[Al](C1=CC=CC=C1)C1=CC=CC=C1.CN | InChI=1S/3C6H5.CH5N.Al/c3*1-2-4-6-5-3-1;1-2;/h3*1-5H;2H2,1H3;
